US09163003B2
2-((3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)methyl)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one
To a solution of 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetimidamide hydrochloride (140 mg, 0.37 mmol) and methyl 2-oxocyclopentanecarboxylate (0.060 mL, 0.47 mmol) in ethanol (4 mL) was added sodium ethoxide (0.160 mL, 0.44 mmol, 21%). The mixture was heated at 100° C. for 24 h. The resulting mixture was purified via flash column chromatography (methanol: dichloromethane, 1:99 to 10:90) and then crystalized out from methanol to provide slightly yellow solid (33 mg, 20% yield). 1H NMR (400 MHz, CDCl3) δ 10.85 (s, 1H), 7.95 (d, J=8.5 Hz, 2H), 6.96 (d, J=8.5 Hz, 2H), 4.32-4.47 (m, 2H), 3.89 (s, 3H), 3.60-3.73 (m, 1H), 3.40-3.56 (m, 2H), 3.23-3.37 (br. s, 1H), 3.00-3.20 (br. s, 3H), 2.84 (ddd, 4H, J=14.7, 7.5, 7.4 Hz), 2.46-2.62 (br. s, 1H), 2.38 (d, 1H, J=7.0 Hz), 2.15-2.25 (br. s, 1H), 2.10 (dq, 2H, J=7.8, 7.6 Hz), 1.82-2.01 (br. s, 4H) HRMS calculated for C25H30N4O4 451.2345. found (ESI, [M+H]+), 451.2362.

reactant | 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetimidamide hydrochloride | 0.37 mmol, 140 mg | Cl.COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC(N)=N)=O)C=C1
reactant | methyl 2-oxocyclopentanecarboxylate | 0.47 mmol, 0.060 mL | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | sodium ethoxide | 0.44 mmol, 0.160 mL | [O-]CC.[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-((3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)methyl)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one | 33 mg, 20% yield | COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC=2NC(C3=C(N2)CCC3)=O)=O)C=C1 | C25H30N4O4
